US06174887B1
(2S)-3-Phenyl-2-[5-(4-aminobutoxy)-3-hydroxy-2-naphthoylamino]-propionic acid methyl ester hydrochloride
A solution of 3,5-dihydroxy-2-naphthoic acid (4.08 g), L-phenylalanine methyl ester hydrochloride (4.74 g), WSC.HCl (4.22 g), HOBT (2.97 g) and N-methylmorpholine (2.41 ml) in DMF (200 ml) was stirred at room temperature for 16 hours. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with a 10% aqueous citric acid solution, water, a saturated aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate=1/1 v/v) to give the title compound (4.42 g, yield 61%).

reactant | 3,5-dihydroxy-2-naphthoic acid | 4.08 g | OC=1C(=CC2=CC=CC(=C2C1)O)C(=O)O | C11H8O4
reactant | L-phenylalanine methyl ester hydrochloride | 4.74 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | WSC.HCl | 4.22 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 2.97 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 2.41 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | (2S)-3-Phenyl-2-[5-(4-aminobutoxy)-3-hydroxy-2-naphthoylamino]-propionic acid methyl ester hydrochloride | 4.42 g, yield 61% | Cl.COC([C@H](CC1=CC=CC=C1)NC(=O)C1=CC2=CC=CC(=C2C=C1O)OCCCCN)=O | InChI=1S/C25H28N2O5.ClH/c1-31-25(30)21(14-17-8-3-2-4-9-17)27-24(29)20-15-18-10-7-11-23(19(18)16-22(20)28)32-13-6-5-12-26;/h2-4,7-11,15-16,21,28H,5-6,12-14,26H2,1H3,(H,27,29);1H/t21-;/m0./s1
